US07538121B2
Ethyl 6-(2,4-difluorophenyl)-2-methylnicotinate
The title compound was prepared from dimethylamino-(2,4-difluorophenyl)-propan-1-one and ethyl 3-aminocrotonate using the general procedure outlined in D18. 1H NMR (250 MHz, CDCl3) δ (ppm): 8.25 (d, 1H), 8.13 (dt, 1H), 7.67 (dd, 1H), 6.86-7.05 (m, 2H), 4.40 (q, 2H), 2.90 (s, 3H), 1.41 (t, 3H).

reactant | dimethylamino-(2,4-difluorophenyl)-propan-1-one | CN(C)C(C(=O)C1=C(C=C(C=C1)F)F)C | C11H13F2NO
reactant | ethyl 3-aminocrotonate | N\C(=C/C(=O)OCC)\C | C6H11NO2
product | Ethyl 6-(2,4-difluorophenyl)-2-methylnicotinate | FC1=C(C=CC(=C1)F)C1=NC(=C(C(=O)OCC)C=C1)C | C15H13F2NO2
